US06462036B1
A mixture of 3-(1,4-dihydroindeno-[1,2-c]pyrazol-3-yl)phenol (2.4 g), anhydrous potassium carbonate (1.2 g), ethyl 2-bromoacetate (1.2 ml) and dry dimethylformamide (20 ml) was stirred at ambient temperature for 24 hours. The mixture was diluted with dichloromethane (200 ml), washed with water, then 1N sodium hydroxide solution. The organic layer was separated, dried, filtered and evaporated to give an oil which was purified by flash column chromatography on silica using ethyl acetate/petroleum ether b.p. 60-80° C. (1:2 as the mobile phase). Appropriate fractions were combined and evaporated to give ethyl 3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxyacetate, m.p. 134-136° C.

reactant | 3-(1,4-dihydroindeno-[1,2-c]pyrazol-3-yl)phenol | 2.4 g | N1N=C(C2=C1C1=CC=CC=C1C2)C=2C=C(C=CC2)O | C16H12N2O
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromoacetate | 1.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | ethyl 3-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenoxyacetate | N1N=C(C2=C1C1=CC=CC=C1C2)C=2C=C(OCC(=O)OCC)C=CC2 | C20H18N2O3
